US07943639B2
N-(3,4-dichlorophenyl)-4-piperazin-1-ylthieno[3,2-c]pyridine-2-sulfonamide hydrochloride
3,4-Dichloroaniline (0.49 mmol), was dissolved in acetonitrile (1 mL) and pyridine (0.440 mL, 4.03 mmol) was added to a solution of 4-chlorothieno[3,2-c]pyridine-2-sulfonyl chloride (0.445 mmol) dissolved in acetonitrile (1 mL). The reaction was shaken for 1 h, controlled with HPLC and the solvent was removed. The crude product was used in the next step without further purification. To the reaction mixture from the previous step, dissolved in DMSO (1 mL), piperazine (15 equiv.) and K2CO3 (1 equiv.) was added. The reaction was stirred at 100° C. for 24 and than concentrated. The product was purified by LC-MS and gave 5.8 mg (2.6%) of the title product. 1H NMR (270 MHz, CH3OH-d4) δ ppm 8.07-8.05 (m, 2H) 7.73 (d, J=6.60 Hz, 1H) 7.46-7.41 (m, 2H) 7.16 (dd, J=8.71, 2.38 Hz, 1H) 3.94-3.90 (m, 4H) 3.92 (m, 4H) 3.53-3.50 (m, 4H); LC-MS 443 (M−H)+; Purity (HPLC) 95%.

reactant | 3,4-Dichloroaniline | 0.49 mmol | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | pyridine | 4.03 mmol, 0.440 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorothieno[3,2-c]pyridine-2-sulfonyl chloride | 0.445 mmol | ClC1=NC=CC2=C1C=C(S2)S(=O)(=O)Cl | C7H3Cl2NO2S2
reactant | piperazine | 15 equiv. | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 1 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-(3,4-dichlorophenyl)-4-piperazin-1-ylthieno[3,2-c]pyridine-2-sulfonamide hydrochloride | 5.8 mg, 2.6% | Cl.ClC=1C=C(C=CC1Cl)NS(=O)(=O)C1=CC=2C(=NC=CC2S1)N1CCNCC1 | InChI=1S/C17H16Cl2N4O2S2.ClH/c18-13-2-1-11(9-14(13)19)22-27(24,25)16-10-12-15(26-16)3-4-21-17(12)23-7-5-20-6-8-23;/h1-4,9-10,20,22H,5-8H2;1H
